US07919628B2
To a solution of 0.33 g of 2-methanesulfinyl-5-methyl-pyridine in 20 mL of carbon tetrachloride was added 0.40 g NBS and 6 mg benzoyl peroxide. This mixture was refluxed for 4 hours. The reaction mixture was cooled to room temperature, washed with aqueous sodium hydrogen carbonate solution, dried over sodium sulphate, and concentrated to dryness. Purification by flash chromatography (silica, heptane/ethyl acetate) provided 0.14 g of 5-bromomethyl-2-methanesulfinyl-pyridine.

reactant | 2-methanesulfinyl-5-methyl-pyridine | 0.33 g | CS(=O)C1=NC=C(C=C1)C | C7H9NOS
reactant | NBS | 0.40 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 6 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 5-bromomethyl-2-methanesulfinyl-pyridine | 0.14 g | BrCC=1C=CC(=NC1)S(=O)C | C7H8BrNOS
